US04734416
24 Grams of 5-(3-chloropropoxy)-3,4-dihydrocarbostyril and 17 g of sodium iodide are mixed with 300 ml of acetone and heated for 3 hours under refluxing conditions. Then, 300 ml of dimethylformamide, 12 g of triethylamine and 18 g of 4-benzylpiperazine are added thereto and the reaction is carried out at 60°-70° C. for 7 hours with stirring conditions. The reaction mixture is concentrated under a reduced pressure to obtain a viscous liquid, then 300 ml of 3% sodium hydrogencarbonate aqueous solution is added. The organic layer is extracted with chloroform and washed with water. After drying the chloroform layer, the chloroform is removed by distillation. The residue thus obtained is washed with ether and recrystallized from methanol to obtain 32 g (yield: 84%) of 5-[3-(4-benzylpiperazinyl)propoxy]-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with a melting point of 157°-159° C.

reactant | 5-(3-chloropropoxy)-3,4-dihydrocarbostyril | ClCCCOC1=C2CCC(NC2=CC=C1)=O | C12H14ClNO2
reactant | sodium iodide | 17 g | [I-].[Na+]
reactant | 4-benzylpiperazine | 18 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | sodium hydrogencarbonate | 300 ml | C(O)([O-])=O.[Na+]
solvent | triethylamine | 12 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 5-[3-(4-benzylpiperazinyl)propoxy]-3,4-dihydrocarbostyril | 32 g, yield: 84% | C(C1=CC=CC=C1)N1CCN(CC1)CCCOC1=C2CCC(NC2=CC=C1)=O | C23H29N3O2
